US06921763B2
A suspension of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate (0.100 g, 0.00025 mol) and 10% palladium on carbon (0.016 g, 0.00002 mol) in acetic acid (3 mL) was reacted with sodium hypophosphite monohydrate (0.033 g, 0.00038 mol) at 60° C. After 2 hours, an additional 10% palladium on carbon (0.016 g, 0.00002 mol) was added. The mixture was stirred 18 hours after which time additional 10% palladium on carbon (0.016 g, 0.00002 mol) and sodium hypophosphite monohydrate (0.033 g, 0.00038 mol) was added. The mixture was stirred for an additional 24 hours. The mixture was filtered through Celite® 521, washing with acetic acid. The solvent was removed in vacuo, and the residue was purified by preparative RP-HPLC (Rainin C18, 8 mm, 300 A, 25 cm; 40% isocratic for five minutes, then 40%-100% acetonitrile-0.1M ammonium acetate over 30 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give 3-(4-phenoxyphenyl)-1-(4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.020 g, 0.00005 mol) as a white solid:

reactant | 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate | 0.00025 mol, 0.100 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=CC=[N+](C=C2)[O-] | C22H16N6O2
reactant | sodium hypophosphite monohydrate | 0.00038 mol, 0.033 g | O.[PH2](=O)[O-].[Na+]
reactant | sodium hypophosphite monohydrate | 0.00038 mol, 0.033 g | O.[PH2](=O)[O-].[Na+]
catalyst | palladium on carbon | 0.00002 mol, 0.016 g | [Pd] | Pd
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.00002 mol, 0.016 g | [Pd] | Pd
catalyst | palladium on carbon | 0.00002 mol, 0.016 g | [Pd] | Pd
product | 3-(4-phenoxyphenyl)-1-(4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00005 mol, 0.020 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2=CC=NC=C2 | C22H16N6O
